US04054663
N-Octanoyl 2-nitroisonicotinamide (Compounds No. 35)
To a mixture of 0.8 g. of 2-nitroisonicotinamide and 2.4 ml. of n-octanoic anhydride were added two drops of conc. sulfuric acid, and the mixture was stirred at room temperature for 16 hours. The reaction solution was poured into ice-water, and the resulting mixture was made weak-alkaline with 5% sodium hydrogencarbonate and extracted with ethyl acetate. The extract was washed with water, dried and the solvent was evaporated. The residue was purified by silica gel chromatography and recrystallized from ethyl acetate - n-hexane to yield 1.36 g. of the desired white crystals.

reactant | 2-nitroisonicotinamide | [N+](=O)([O-])C=1C=C(C(=O)N)C=CN1 | C6H5N3O3
reactant | n-octanoic anhydride | C(CCCCCCC)(=O)OC(CCCCCCC)=O | C16H30O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | sulfuric acid | two drops | S(O)(O)(=O)=O | H2O4S
product | N-Octanoyl 2-nitroisonicotinamide | C(CCCCCCC)(=O)NC(C1=CC(=NC=C1)[N+](=O)[O-])=O | C14H19N3O4
